US06884882B1
1-2) Preparation of 2′-deoxy-5-[(trimethylsilyl)ethynyl]-5′-O-(4-methoxytrityl)-uridine
2 g of 2′-deoxy-5-iodo-5′-O-(4-methoxytrityl)-uridine (3.19 mmole) prepared in 1-1) together with (PPh3)2PdCl2 (0.1 eq) and 61 mg of CuI (0.1 eq), were dried under a vacuum, TEA and THF in a ratio of 3:1 were added thereto, and the mixture was purged several times with argon. 0.59 ml of TMS-acetylene (1.3 eq) was then added to the mixture at a temperature ranging from 45 to 50° C., until it became black. The resulting mixture was heated for additional 3 hours to terminate the reaction, and subjected to column chromatography (silica gel 60, 230˜400 meshes, Merck) to obtain the title compound as a pale yellow solid. The chromatography was conducted using a mixture of hexane and ethyl acetate as an elution solution whose mix ratio was gradually varied from 3:1 to 1:1 (v/v).

reactant | 2′-deoxy-5-iodo-5′-O-(4-methoxytrityl)-uridine | 3.19 mmole, 2 g | IC=1C(NC(N([C@H]2C[C@H](O)[C@@H](COC(C3=CC=C(C=C3)OC)(C3=CC=CC=C3)C3=CC=CC=C3)O2)C1)=O)=O | C29H27IN2O6
reactant | TMS-acetylene | 0.59 ml, 1.3 eq | [Si](C)(C)(C)C#C | C5H10Si
catalyst | (PPh3)2PdCl2 | 0.1 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 61 mg, 0.1 eq | [Cu]I
product | 2′-deoxy-5-[(trimethylsilyl)ethynyl]-5′-O-(4-methoxytrityl)-uridine | C[Si](C)(C)C#CC=1C(NC(N([C@H]2C[C@H](O)[C@@H](COC(C3=CC=C(C=C3)OC)(C3=CC=CC=C3)C3=CC=CC=C3)O2)C1)=O)=O | C34H36N2O6Si
